US04044133
50 G. of 2-ethyl-4-amino-5-methoxymethyl pyrimidine, 50 g. of 7-methylthieno[ 2,3-c]pyridine and 500 ml. of xylene are placed in a 2-liter flask equipped with reflux condenser, stirrer, thermometer and gas inlet tube. Hydrogen chloride gas is added to this mixture over 30 minutes at a rate sufficient to add an amount equivalent to 0.2 moles, that of the pyrimidine. The temperature rises to about 67° C. The gas inlet tube is replaced with a distillation unit and the mixture heated at reflux (138° C.) for 2 hours during which fresh xylene is added to replace the volume of liquid that distills. An additional 25 g. of 7-methylthieno[2,3-c]pyridine are added and the mixture refluxed for 40 minutes. At the end of the reflux period, the reaction mixture is cooled to 65° C., the xylene decanted, and 50 ml. of acetonitrile added to the residue. The resulting mixture is stirred at room temperature for about 12 hours, filtered, and the solid 6-[(4-amino-2-ethyl-5-pyrimidinyl)methyl]-7-methylthieno[2,3-c]pyridinium chloride hydrochloride thus obtained washed. the product has a m.p. of 249°-250° C., dec.

reactant | 2-ethyl-4-amino-5-methoxymethyl pyrimidine | C(C)C1=NC=C(C(=N1)N)COC | C8H13N3O
reactant | 7-methylthieno[ 2,3-c]pyridine | CC=1N=CC=C2C1SC=C2 | C8H7NS
reactant | Hydrogen chloride | Cl | ClH
reactant | pyrimidine | N1=CN=CC=C1 | C4H4N2
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 6-[(4-amino-2-ethyl-5-pyrimidinyl)methyl]-7-methylthieno[2,3-c]pyridinium chloride hydrochloride | Cl.[Cl-].NC1=NC(=NC=C1C[N+]=1C(=C2C(=CC1)C=CS2)C)CC | InChI=1S/C15H17N4S.2ClH/c1-3-13-17-8-12(15(16)18-13)9-19-6-4-11-5-7-20-14(11)10(19)2;;/h4-8H,3,9H2,1-2H3,(H2,16,17,18);2*1H/q+1;;/p-1
